US07846959B2
3,4-Dinitrobenzaldehyde (634.5 mg, 3.24 mmol.) was taken into dichloromethane (20 mL) and the resulting solution was cooled to 0° C. under a nitrogen atmosphere. [(1-Ethoxycyclopropyl)oxy]trimethylsilane (0.85 mL, 4.21 mmol.) was added by syringe followed by addition of titanium tetrachloride (0.4 mL, 3.56 mmol.) and the resulting mixture was allowed to slowly warm to room temperature over 12 hours then stirred an additional 3 days. The solution was partitioned with water and the organic layer was dried over anhydrous sodium sulfate. Filtration and concentration followed by purification of the residue using silica gel flash chromatography (1:1 to 3:1 ethyl acetate:hexane eluent) gave a less polar fraction ethyl 4-chloro-4-(3,4-dinitrophenyl)butanone (379 mg, 37% yield) as an amorphous residue and 5-(3,4-dinitrophenyl)dihydrofuran-2(3H)-one as a more polar fraction (338 mg, 41% yield). 1H NMR (400 MHz, CDCl3): 7.98 (d, 1H), 7.96 (d, 1H), 7.80 (dd, 1H), 5.11 (dd, 1H), 4.15 (q, 2H), 2.66-2.50 (m, 2H), 2.42-2.28 (m, 2H), 1.27 (tr, 3H).

reactant | 3,4-Dinitrobenzaldehyde | 3.24 mmol, 634.5 mg | [N+](=O)([O-])C=1C=C(C=O)C=CC1[N+](=O)[O-] | C7H4N2O5
reactant | [(1-Ethoxycyclopropyl)oxy]trimethylsilane | 4.21 mmol, 0.85 mL | C(C)OC1(CC1)O[Si](C)(C)C | C8H18O2Si
reactant | 5-(3,4-dinitrophenyl)dihydrofuran-2(3H)-one | [N+](=O)([O-])C=1C=C(C=CC1[N+](=O)[O-])C1CCC(O1)=O | C10H8N2O6
reactant | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 3.56 mmol, 0.4 mL | [Ti](Cl)(Cl)(Cl)Cl
product | ethyl 4-chloro-4-(3,4-dinitrophenyl)butanone | 379 mg, 37% yield | C(C)CC(CC(C1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])Cl)=O | C12H13ClN2O5
